US08686005B2
2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-piperidin-4-yl-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one:
To a mixture of 4-(5-amino-6-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester (5.0 g, 12.8 mmol) and 10% Pd/C (500 mg) was added 2-propanol (20 mL), and then MeOH (230 mL). After it was stirred under atmospheric hydrogen pressure for 4 h, the reaction mixture was filtered through Celite. The filtrate was mixed with 4-iodo-2-methoxynicotinic aldehyde (3.37 g, 12.8 mmol) and AcOH (13 mL), stirred at the room temperature for 16 h, and evaporated under reduced pressure to afford a crude, which was mixed with HCl in 1,4-dioxane (4 M, 60 mL) and H2O (5 mL), heated at 70° C. for 1.5 h and evaporated at 95° C. (the bath temperature) to dryness. Et3N (5.35 mL, 38.4 mmol) was added to the solution of the residue in CH2Cl2 (250 mL) at 0° C. under N2, followed by the addition of the solution of Boc2O (3.35 g, 15.4 mmol). After it was stirred at 0° C. for 1 h and at the room temperature for 19 h, the reaction mixture was mixed slowly with MeOH (200 mL) at 0° C. and then evaporated at 70° C. (the bath temperature) to dryness under reduced pressure. The residue was mixed with (R)-1-amino-3-(2,4-dimethyl-phenoxy)-propan-2-ol (2.5 g, 12.8 mmol) and Et3N (5.35 mL, 38.4 mmol) in EtOH (200 mL) resulting a mixture, which was heated at 100° C. for 5 h and then concentrated. Chromatography of the residual mixture with CH2Cl2/MeOH/28% aqueous NH4OH (250:10:1) furnished a fluorescent product which was mixed with zinc dust (5.5 g, 84 mmol) and AcOH (200 mL). After it was heated at 90° C. for 2 h, the reaction mixture was filtered and the filtrate was concentrated at 70° C. (the bath temperature) under reduced pressure. The residue was mixed with HCl in dioxane (4 M, 60 mL) and H2O (5 mL), heated at 70° C. for 2.5 h and evaporated at 95° C. (the bath temperature) to dryness. The residue was basified with NH3 in EtOH (2 M) and concentrated. Chromatography of the crude with CH2Cl2/MeOH/28% aqueous NH4OH (40:10:1) afforded a fluorescent product (6.5 g). 50 mg of this product was subjected to HPLC purification to furnish the title compound in TFA salt form (37 mg). 1H NMR (DMSO-d6) δ 1.90-2.05 (4H), 2.19 (s, 3H, CH3), 2.22 (s, 3H, CH3), 3.13 (m, 2H), 3.42 (m, 2H), 3.55 (m, 1H), 3.69 (m, 1H), 4.03 (m, 2H), 4.13 (m, 1H), 4.39 (m, 1H), 4.46 (s, 2H), 6.22 (d, J=7 Hz, 1H), 6.84 (d, J=7 Hz, 1H), 6.94 (d, J=7 Hz, 1H), 6.98 (s, 1H), 7.39 (d, J=7 Hz, 1H), 7.55 (br s, 1H), 7.85 (br s, 1H), 11.14 (br s, 1H, NH), 11.23 (br d, J=6 Hz, 1H, NH); ESI-MS m/z 543.5 (MH+).

reactant | 4-(5-amino-6-nitro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | 12.8 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C2=CC(=C(C=C2C1=O)N)[N+](=O)[O-])=O | C18H22N4O6
reactant | HCl | Cl | ClH
reactant | Et3N | 38.4 mmol, 5.35 mL | CCN(CC)CC | C6H15N
reactant | Boc2O | 15.4 mmol, 3.35 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (R)-1-amino-3-(2,4-dimethyl-phenoxy)-propan-2-ol | 12.8 mmol, 2.5 g | NC[C@H](COC1=C(C=C(C=C1)C)C)O | C11H17NO2
reactant | Et3N | 38.4 mmol, 5.35 mL | CCN(CC)CC | C6H15N
reactant | 1,4-dioxane | 4 M, 60 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 5 mL | O | H2O
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 200 mL | CCO | C2H6O
catalyst | Pd/C | 500 mg | [Pd] | Pd
catalyst | zinc | 84 mmol, 5.5 g | [Zn] | Zn
solvent | AcOH | 200 mL | CC(=O)O | C2H4O2
solvent | MeOH | 200 mL | CO | CH4O
solvent | AcOH | 13 mL | CC(=O)O | C2H4O2
solvent | MeOH | 230 mL | CO | CH4O
solvent | 2-propanol | 20 mL | CC(C)O | C3H8O
product | 2-{4-[(R)-3-(2,4-Dimethyl-phenoxy)-2-hydroxy-propylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-piperidin-4-yl-6,7-dihydro-3H-1,3,6-triaza-s-indacen-5-one | 6.5 g | CC1=C(OC[C@@H](CNC2=C(C(NC=C2)=O)C2=NC3=CC=4CN(C(C4C=C3N2)=O)C2CCNCC2)O)C=CC(=C1)C | C30H34N6O4
